US04971990
A suspension of 8.75 g of 5-fluoro-2-methoxyphenol, 10.9 g of ethylene carbonate and 8.50 g of potassium carbonate in 12 ml of toluene was refluxed for 2.5 hours. The reaction mixture was diluted with benzene, washed with water, dried and evaporated. The residue was distilled to give 9.15 g of 2-(5-fluoro-2-methoxyphenoxy)ethanol as colorless oil, b.p. 138°-140° C. (8mmHg).

reactant | 5-fluoro-2-methoxyphenol | 8.75 g | FC=1C=CC(=C(C1)O)OC | C7H7FO2
reactant | ethylene carbonate | 10.9 g | C1(OCCO1)=O | C3H4O3
reactant | potassium carbonate | 8.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(5-fluoro-2-methoxyphenoxy)ethanol | 9.15 g | FC=1C=CC(=C(OCCO)C1)OC | C9H11FO3
